US07504410B2
Phenylmethyl[3-[[2-[[3-[[(ethylamino)carbonyl]amino]phenyl]amino]-5-(hydroxymethyl)pyrimidin-4-yl]amino]propyl]carbamate
To a solution of 1-Methylethyl 2-[(3-nitrophenyl)amino]-4-[[3-[[(phenylmethoxy)carbonyl]amino]propyl]amino]pyrimidine-5-carboxylate (1.7 g) in tetrahydrofuran (100 ml) LiAlH4 (410 mg) was added in portions at 0° C. After 6 h at 0° C. the reaction was quenched by addition of saturated ammonium chloride solution. Ethyl acetate was added and the mixture filtered. After evaporation of the filtrate the residue was partitioned between water and dichloromethane. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. Chromatography of the residue on silica gel (dichloromethane/methanol)) yielded the title compound (650 mg).

reactant | 1-Methylethyl 2-[(3-nitrophenyl)amino]-4-[[3-[[(phenylmethoxy)carbonyl]amino]propyl]amino]pyrimidine-5-carboxylate | 1.7 g | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)C | C25H28N6O6
solvent | tetrahydrofuran | 100 ml, 410 mg | O1CCCC1 | C4H8O
product | Phenylmethyl[3-[[2-[[3-[[(ethylamino)carbonyl]amino]phenyl]amino]-5-(hydroxymethyl)pyrimidin-4-yl]amino]propyl]carbamate | 650 mg | C1(=CC=CC=C1)COC(NCCCNC1=NC(=NC=C1CO)NC1=CC(=CC=C1)NC(=O)NCC)=O | C25H31N7O4
